US07582657B2
(2E)-N-[3-(2-Aminoethoxy)phenyl]-3-[4-(tert-butyl)phenyl]prop-2-enamide
To a round-bottomed flask equipped with magnetic stirring was added Example 27, (2E)-3-[4-(tert-butyl)phenyl]-N-{3-[2-(1,3-dioxobenzo[c]azolin-2yl)ethoxy]phenyl}prop-2-enamide, (856 mg, 1.83 mmol), EtOH (15 mL) and hydrazine (574 uL, 18.3 mmol, Aldrich). The reaction mixture was stirred at 25° C. for 2 h. The mixture was concentrated in vacuo, the residue dissolved in EtOAc (40 mL), washed with 10% K2CO3 (15 mL), water (15 mL), dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica gel chromatography (step gradient, EtOAc followed by 1:1 EtOAc:EtOH) provided the title product as an oil. MS (ESI, pos. ion) m/z: 339 (M+1).

reactant | (2E)-3-[4-(tert-butyl)phenyl]-N-{3-[2-(1,3-dioxobenzo[c]azolin-2yl)ethoxy]phenyl}prop-2-enamide | 1.83 mmol, 856 mg | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)NC1=CC(=CC=C1)OCCN1C(C2=C(C1=O)C=CC=C2)=O | C29H28N2O4
reactant | hydrazine | 18.3 mmol, 574 uL | NN | H4N2
solvent | EtOH | 15 mL | CCO | C2H6O
product | (2E)-N-[3-(2-Aminoethoxy)phenyl]-3-[4-(tert-butyl)phenyl]prop-2-enamide | NCCOC=1C=C(C=CC1)NC(\C=C\C1=CC=C(C=C1)C(C)(C)C)=O | C21H26N2O2
